US04738710
A mixture of 3-[N-acetyl-N-(4-methoxyphenyl)amino]-7-chloroquinoline (13.0 g), acetic acid (90 ml) and hydrobromic acid (48%, 90 ml) was heated under reflux with stirring for 5 hours. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and dilute aqueous sodium bicarbonate. The organic layer was separated, dried over magnesium sulphate and evaporated to give 4-[N-(7-chloroquinolin-3-yl)amino]phenol as a dark yellow solid (9 g, 85%, mp 218° C.

reactant | 3-[N-acetyl-N-(4-methoxyphenyl)amino]-7-chloroquinoline | 13.0 g | C(C)(=O)N(C1=CC=C(C=C1)OC)C=1C=NC2=CC(=CC=C2C1)Cl | C18H15ClN2O2
reactant | hydrobromic acid | 90 ml | Br | BrH
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 4-[N-(7-chloroquinolin-3-yl)amino]phenol | ClC1=CC=C2C=C(C=NC2=C1)NC1=CC=C(C=C1)O | C15H11ClN2O
